US04667033
4.5-Dihydro-6-[5-(pyrazol-1-yl-methyl)-thien-2-yl]-3(2H)-pyridazinone.
Analoguous to Example 2(b), the reaction is carried out with 29 g of 4-[5-(pyrazol-1-yl-methyl)-thien-2-yl]-4-oxo-butyric acid and 6.6 g of hydrazin hydrate in 100 ml water.

reactant | 4-[5-(pyrazol-1-yl-methyl)-thien-2-yl]-4-oxo-butyric acid | 29 g | N1(N=CC=C1)CC1=CC=C(S1)C(CCC(=O)O)=O | C12H12N2O3S
reactant | hydrazin hydrate | 6.6 g | O.NN
solvent | water | 100 ml | O | H2O
product | 4.5-Dihydro-6-[5-(pyrazol-1-yl-methyl)-thien-2-yl]-3(2H)-pyridazinone | N1(N=CC=C1)CC1=CC=C(S1)C=1CCC(NN1)=O | C12H12N4OS
